US08404684B2
1b) (4-Methyl-5-pyridin-4-yl-thiazol-2-yl)-pyrazin-2-yl-amine
To a stirred solution of 1-pyridin-4-yl-propan-2-one (0.1 g, 0.812 mmol) in dioxane (7 ml) is added bromine (0.029 ml, 0.569 mmol) dropwise. After 45 minutes, the solvent is removed in vacuo and the crude product is dissolved in ethanol (15 ml). The solution is treated with pyrazin-2-yl-thiourea (0.125 g, 0.812 mmol) and the reaction mixture is heated at 60° C. for 3 hours. The solvent is removed in vacuo and purification by chromatography on silica, eluting with ethyl acetate-methanol affords the titled compound.

reactant | 1-pyridin-4-yl-propan-2-one | 0.812 mmol, 0.1 g | N1=CC=C(C=C1)CC(C)=O | C8H9NO
reactant | bromine | 0.569 mmol, 0.029 ml | BrBr | Br2
reactant | pyrazin-2-yl-thiourea | 0.812 mmol, 0.125 g | N1=C(C=NC=C1)NC(=S)N | C5H6N4S
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | (4-Methyl-5-pyridin-4-yl-thiazol-2-yl)-pyrazin-2-yl-amine | CC=1N=C(SC1C1=CC=NC=C1)NC1=NC=CN=C1 | C13H11N5S
